US07842713B2
Preparation of Intermediate 285d: Ethyl 2-(dimethylcarbamoyl)-4-(4-(methylsulfonyl)-phenoxy)-benzofuran-6-carboxylate
To a solution of 6-(ethoxycarbonyl)-4-(4-(methylsulfonyl)phenoxy)benzofuran-2-carboxylic acid (450 mg, 1.11 mmol) in DMF (10 mL) was added HATU (846 mg, 2.23 mmol), DIEA (719 mg, 5.56 mmol) and the solution was stirred at 0° C. for 15 min. Dimethylamine hydrochloride (136 mg, 1.67 mmol) was added and the solution was warmed gradually to room temperature and stirred for 14 h. Water was added and the product was extracted with CHCl3. The combined organic layers were washed with water (2×), brine, dried over Na2SO4, and concentrated. The product was purified by gradient silica gel chromatography using CHCl3/MeOH (100/0 to 95/5) to give the title compound (460 mg, 96%) as a light yellow solid. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 1.40 (t, J=7.16 Hz, 3 H) 3.07 (s, 3 H) 3.13 (s, 3 H) 3.33 (s, 3 H) 4.40 (q, J=7.16 Hz, 2 H) 7.07-7.15 (m, 2 H) 7.16 (d, J=0.75 Hz, 1 H) 7.65 (d, J=0.94 Hz, 1 H) 7.87-7.94 (m, 2H) 8.10-8.15 (d, J=0.94 Hz, 1 H).

reactant | 6-(ethoxycarbonyl)-4-(4-(methylsulfonyl)phenoxy)benzofuran-2-carboxylic acid | 1.11 mmol, 450 mg | C(C)OC(=O)C1=CC2=C(C=C(O2)C(=O)O)C(=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C19H16O8S
reactant | HATU | 2.23 mmol, 846 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 5.56 mmol, 719 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Dimethylamine hydrochloride | 1.67 mmol, 136 mg | Cl.CNC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | Ethyl 2-(dimethylcarbamoyl)-4-(4-(methylsulfonyl)-phenoxy)-benzofuran-6-carboxylate | 460 mg, 96% | CN(C(=O)C=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2=CC=C(C=C2)S(=O)(=O)C)C | C21H21NO7S
